US08008283B2
In similar manner to Example 12, azosemide can be reacted with chloromethyl propionate, triethylamine and sodium iodide in DMF to yield 2-chloro-5-[1-(ethylcarbonyloxymethyl)-1H-tetrazol-5-yl]-4-[(2-thienylmethyl)amino]benzenesulfonamide.

reactant | azosemide | C=1C=C(SC1)CNC2=CC(=C(C=C2C3=NNN=N3)S(=O)(=O)N)Cl | C12H11ClN6O2S2
reactant | chloromethyl propionate | C(CC)(=O)OCCl | C4H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-5-[1-(ethylcarbonyloxymethyl)-1H-tetrazol-5-yl]-4-[(2-thienylmethyl)amino]benzenesulfonamide | ClC1=C(C=C(C(=C1)NCC=1SC=CC1)C1=NN=NN1COC(=O)CC)S(=O)(=O)N | C16H17ClN6O4S2
